US06897231B2
C. [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-(2,2-dimethylpropyl)carboxamide
To a stirred solution of N-(2,2-dimethylpropyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenyl methyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide (0.337 g, 0.481 mmol) was added dioxane (4.0 mL) and aqueous 6 N hydrochloric acid (4.0 mL) and the mixture heated at 60° C. for 4 h. The mixture was cooled and poured into aqueous saturated sodium bicarbonate (50 mL). The aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with saturated sodium bicarbonate, dried over anhydrous sodium sulfate, filtered and evaporated. Addition of ethyl acetate (5 mL) initiated crystal growth and the ethyl acetate layer was pipetted off. Filtration of the crystals and washing with hexanes gave the title compound (0.0381 g, 21% yield). 1H NMR (CD3OD) δ 8.80 (s, 1H), 8.60 (br t, 1H), 8.45 (t, 1H), 8.20 (dt, 1H), 8.12 (br d, 1H), 7.89 (dt, 1H), 7.70 (d, 1H), 7.67 (t, 1H), 3.27 (s, 2H), 1.01 (s, 9H). ES-MS (m/z) 375 [M+1]+.

reactant | N-(2,2-dimethylpropyl)(3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenyl methyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)carboxamide | 0.481 mmol, 0.337 g | CC(CNC(=O)C1=CC(=CC=C1)C1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1)(C)C | C45H44N6O2
reactant | hydrochloric acid | 6 N, 4.0 mL | Cl | ClH
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | [3-(5-(1H-1,2,4-triazol-5-yl)(1H-indazol-3-yl))phenyl]-N-(2,2-dimethylpropyl)carboxamide | 0.0381 g, 21% yield | N1N=CN=C1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)C(=O)NCC(C)(C)C | C21H22N6O
